US08541587B2
Step 5: [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid tert-butyl ester:
5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid (1.6 g, 6.0 mmol), diphenylphosphoryl azide (1.6 g, 6.0 mmol), and triethylamine (1.3 mL, 9.3 mmol) were combined in t-BuOH and refluxed overnight. After cooling, the mixture was concentrated, and the residue was partitioned between EtOAc and H2O. The organic layer was separated and concentrated, and the residue was purified by silica gel chromatography (16-18% EtOAc in hexanes) to give the title compound.

reactant | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid | 6.0 mmol, 1.6 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(=O)O | C11H8BrNO3
reactant | diphenylphosphoryl azide | 6.0 mmol, 1.6 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 9.3 mmol, 1.3 mL | C(C)N(CC)CC | C6H15N
reactant | t-BuOH | CC(C)(C)O | C4H10O
product | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C15H17BrN2O3
